US03932444
1-(4-IMIDAZOLYLSULFONYL)-2-ISOPROPYLIMIDAZOLE
A round bottom flask equipped with a magnetic stirrer, reflux condenser and nitrogen inlet was charged with 8.35 g of imidazole-4-sulfonylchloride and 150 ml of THF. This solution was treated with 11.10 g of 2-isopropylimidazole in one portion and the solution stirred 24 hours at room temperature. The solution was concentrated to a clear oil and partitioned between ethylacetate and water. The organic layer was washed with water and the water washes back extracted with ethyl acetate. The organic layer was dried (Na2SO4) and concentrated to a foam. The foam was dissolved in acetone and chromatographed on activity III alumina to separate 1-(4-imidazolylsulfonyl)-2-isopropylimidazole, mp 118°-120°.

reactant | imidazole-4-sulfonylchloride | 8.35 g | N1C=NC(=C1)S(=O)(=O)Cl | C3H3ClN2O2S
reactant | 2-isopropylimidazole | 11.10 g | C(C)(C)C=1NC=CN1 | C6H10N2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 1-(4-IMIDAZOLYLSULFONYL)-2-ISOPROPYLIMIDAZOLE | N1C=NC(=C1)S(=O)(=O)N1C(=NC=C1)C(C)C | C9H12N4O2S
